US05962682
3.5 g of 4-(2-methoxy-phenoxy)-3-nitro-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzonitrile were dissolved in ethanol (100 ml), a solution of tin dichloride dihydrate (7.6 g) in 37% HCl (17 ml) was added dropwise thereto at room temperature and the mixture was subsequently stirred at room temperature for 12 hours. The mixture was poured on to ice-water, adjusted to pH 7 and the product was extracted with ethyl acetate. After usual processing of the organic phase there was obtained 3-amino-5-(2-hydroxy-ethoxy)-4-(2-methoxy-phenoxy)-benzonitrile as a crystalline solid.

reactant | 4-(2-methoxy-phenoxy)-3-nitro-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzonitrile | 3.5 g | COC1=C(OC2=C(C=C(C#N)C=C2OCCOC2OCCCC2)[N+](=O)[O-])C=CC=C1 | C21H22N2O7
reactant | tin dichloride dihydrate | 7.6 g | O.O.[Sn](Cl)Cl
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | HCl | 17 ml | Cl | ClH
product | 3-amino-5-(2-hydroxy-ethoxy)-4-(2-methoxy-phenoxy)-benzonitrile | NC=1C=C(C#N)C=C(C1OC1=C(C=CC=C1)OC)OCCO | C16H16N2O4
